US04287041
Separately, 81.4 parts of sec-butanol was added dropwise at less than 50° C. to 174 parts of tolylene diisocyanate (a mixture of 80% of 2,4-tolylene diisocyanate and 20% of 2,6-tolylene diisocyanate), and they were reacted at 60° C. until the isocyanate value of the produce became 148. Thus, a partially blocked diisocyanate having a molar ratio (tolylene diisocyanate/sec-butanol) of 1:1.1 was obtained. This product is referred to as an "isocyanate C".

reactant | tolylene diisocyanate | CC=1C(=CC(=CC1)N=C=O)N=C=O | C9H6N2O2
reactant | 2,6-tolylene diisocyanate | CC=1C(=CC=CC1N=C=O)N=C=O | C9H6N2O2
reactant | isocyanate | [N-]=C=O
solvent | sec-butanol | C(C)(CC)O | C4H10O
product | tolylene diisocyanate sec-butanol | CC=1C(=CC(=CC1)N=C=O)N=C=O.C(C)(CC)O | InChI=1S/C9H6N2O2.C4H10O/c1-7-2-3-8(10-5-12)4-9(7)11-6-13;1-3-4(2)5/h2-4H,1H3;4-5H,3H2,1-2H3
